US07582761B2
(a) Methyl N-{[(9H-fluoren-9-ylmethyl)oxy]carbonyl}-D-norleucylglycinate
A mixture of fmoc-D-Nle-OH (10 g, 28.3 mmol, Novabiochem) and PS-carbodiimide (33 g, 42.45 mmol, 1.28 mmol/g, Argonaut Technologies Inc.) in dichloromethane (250 mL) was stirred at room temperature for 0.5 h. Then, glycine methyl ester hydrochloride (5.3 g, 42.45 mmol, Aldrich), HOAt (3.8 g, 28.3 mmol, Perseptive Biosystems) and diisopropylethylamine (16 mL, 84.9 mmol, Aldrich) were added and the mixture was stirred at room temperature for 16 h. The mixture was filtered and the resin was washed with dichloromethane (2×70 mL). The filtrate was concentrated in vacuo and the residue was purified by column chromatography, eluting with EtOAc/hexane (1:2) to give the title compound as a yellow solid. MS (ESI, positive ion) m/z: 425 (M+1).

reactant | fmoc-D-Nle-OH | 28.3 mmol, 10 g | CCCC[C@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C3=CC=CC=C13 | C21H23NO4
reactant | carbodiimide | 42.45 mmol, 33 g | N=C=N | CH2N2
reactant | glycine methyl ester hydrochloride | 42.45 mmol, 5.3 g | Cl.COC(CN)=O
reactant | HOAt | 28.3 mmol, 3.8 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | diisopropylethylamine | 84.9 mmol, 16 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | Methyl N-{[(9H-fluoren-9-ylmethyl)oxy]carbonyl}-D-norleucylglycinate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](CCCC)C(=O)NCC(=O)OC | C24H28N2O5
